US03962262
2-Amino-5,7-di(trifluoromethyl)-1,8-naphthyridine
A mixture of 2,6-diaminopyridine (5.2 g., 47.6 mmole), 1,1,1,5,5,5-hexafluoroacetylacetone (10.0 g., 48.0 mmole) and 85% phosphoric acid (50 ml.) are stirred for 6 hours in an oil-bath at 90°-95° C. then left overnight at ambient temperature. The reaction mixture is poured into ice water and neutralized with ammonium hydroxide to pH 7, the solid collected, washed with water and dried to provide 9.0 g. (67%) of product, m.p. 198°-204° C. Upon recrystallization from benzene, purified product separates in the form of pale yellow needles, m.p. 204°-206° C.

reactant | 2,6-diaminopyridine | 47.6 mmole, 5.2 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | 1,1,1,5,5,5-hexafluoroacetylacetone | 48.0 mmole, 10.0 g | C(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C5H2F6O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | phosphoric acid | 50 ml | P(O)(O)(O)=O | H3O4P
product | 2-Amino-5,7-di(trifluoromethyl)-1,8-naphthyridine | NC1=NC2=NC(=CC(=C2C=C1)C(F)(F)F)C(F)(F)F | C10H5F6N3
